US07767690B2
a) {1-[5(S)-tert-butoxycarbonylamino-7-(2,2-dimethyl-propionylamino)-6(S)-hydroxy-3,3-dimethyl-heptanoyl]-1,2,3,4-tetrahydro-quinolin-3(R,S)-yl}-carbamic acid methyl ester
To a solution of 0.030 g of [1-(7-amino-5(S)-tert-butoxycarbonylamino-6(S)-hydroxy-3,3-dimethyl-heptanoyl)-1,2,3,4-tetrahydro-quinolin-3(R,S)-yl]-carbamic acid methyl ester in 0.6 ml of ethyl acetate at room temperature under argon is added 0.6 ml of saturated aqueous sodium carbonate solution. The mixture is stirred for 15 minutes at room temperature and and 0.011 ml of pivaloyl chloride are added. The mixture is stirred at room temperature for 1.5 hours. The layers are separated and the aqueous layer is extracted with ethyl acetate (2×). The combined organic layers are dried over sodium sulphate, filtered and concentrated. The title compound is obtained as a beige oil from the residue by means of flash chromatography (SiO2 60 F). Rt=4.46 (gradient I).

reactant | [1-(7-amino-5(S)-tert-butoxycarbonylamino-6(S)-hydroxy-3,3-dimethyl-heptanoyl)-1,2,3,4-tetrahydro-quinolin-3(R,S)-yl]-carbamic acid methyl ester | 0.030 g | COC(NC1CN(C2=CC=CC=C2C1)C(CC(C[C@@H]([C@H](CN)O)NC(=O)OC(C)(C)C)(C)C)=O)=O | C25H40N4O6
reactant | sodium carbonate | 0.6 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | pivaloyl chloride | 0.011 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | ethyl acetate | 0.6 ml | C(C)(=O)OCC | C4H8O2
product | {1-[5(S)-tert-butoxycarbonylamino-7-(2,2-dimethyl-propionylamino)-6(S)-hydroxy-3,3-dimethyl-heptanoyl]-1,2,3,4-tetrahydro-quinolin-3(R,S)-yl}-carbamic acid methyl ester | COC(NC1CN(C2=CC=CC=C2C1)C(CC(C[C@@H]([C@H](CNC(C(C)(C)C)=O)O)NC(=O)OC(C)(C)C)(C)C)=O)=O | C30H48N4O7
